US04272435
In the same manner as in Example 1, 2-amino-2,4-dimethylpentanonitrile and sodium hypochlorite were reacted. By iodometry, it was found that the total oxidative compounds in both the water and ethyl acetate phases after reaction was 0.05 equivalent. The reaction mixture was adjusted to a pH of 6 with a dilute sulfuric acid, and a solution of 6.5 g (0.125 equivalent) of sodium bisulfite in 30 ml of water was added thereto. The resulting mixture was stirred at 15° C. for 30 minutes to effect the reduction. Thereafter, the ethyl acetate phase was separated from the water phase, and the ethyl acetate in the organic phase was removed by distillation. Water was added to the residue and precipitated white crystals were filtered, washed with water and dried to obtain 26.0 g of 2,2'-azobis(2,4-dimethylvaleronitrile). Yield was 89 mole %. The product was analyzed by iodometry, and it was found that the amount of oxidative impurities was 100 ppm or less and that the purity of the product was 99.5%.

reactant | 2-amino-2,4-dimethylpentanonitrile | NC(C#N)(CC(C)C)C | C7H14N2
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bisulfite | 6.5 g, 0.125 equivalent | S([O-])(O)=O.[Na+]
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2'-azobis(2,4-dimethylvaleronitrile) | 26.0 g | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
